US04696949
(a) 4-[(tetrahydropyran-2-yl)oxy]-1,2-diphenylbutan-1-one
A mixture containing 19.6 g of desoxybenzoin, 20.9 g of tetrahydropyran-2-yl ether-protected bromoethanol, 1.0 g of TEBAC and 50 ml of 48% sodium hydroxide solution is stirred for 2 h at 75° C. Water is added and the product extracted in toluene. The toluene solution is washed with water and dried over sodium sulfate. Finally the solvent is evaporated. The yield is quantitative, but the oily product contains about 20% O-alkylation product.

reactant | desoxybenzoin | 19.6 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | tetrahydropyran-2-yl ether | 20.9 g | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
catalyst | TEBAC | 1.0 g | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
solvent | Water | O | H2O
product | 4-[(tetrahydropyran-2-yl)oxy]-1,2-diphenylbutan-1-one | O1C(CCCC1)OCCC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H24O3
